US09315438B2
(8) Preparation of (3R,4S,5R,6R)-3,4,5-tri((trimethylsilyl)oxy)-6-(((trimethylsilyl)oxy)methyl)tetrahydro-2H-pyran-2-one
(3R,4S,5S,6R)-3,4,5-trihydroxy-6-(hydroxymethyl)tetrahydro-2H-pyran-2-one (85 g, 0.47 mol) was suspended in THF (tetrahydrofuran) (932 mL). To the resulting mixture was added N-methylmorpholine (405 mL, 4.78 mol). Then the resulting mixture was cooled to −5° C. under a nitrogen protection, and TMSCI (trimethylsilane chloride) (360 mL, 4.78 mol) was added dropwise thereto. After the completion of dropwise addition, the resulting mixture was stirred at room temperature for 1 h and at 35° C. for 5 hr. Then the mixture was stirred overnight while the temperature was maintained at 25° C. TLC indicated the completion of reaction. To the reaction mixture was added toluene (200 mL) and added dropwise water (1 L) in an ice-water bath. The organic phase was collected, washed with sodium dihydrogen phosphate for one time, with water for one time, and with a saturated sodium chloride solution for one time, dried and concentrated to produce 218 g of a product in a yield of 100%.

reactant | (3R,4S,5S,6R)-3,4,5-trihydroxy-6-(hydroxymethyl)tetrahydro-2H-pyran-2-one | 0.47 mol, 85 g | O[C@H]1C(O[C@@H]([C@H]([C@@H]1O)O)CO)=O | C6H10O6
reactant | N-methylmorpholine | 4.78 mol, 405 mL | CN1CCOCC1 | C5H11NO
reactant | TMSCI | 4.78 mol, 360 mL | [Cl-].C[SiH](C)C
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 932 mL | O1CCCC1 | C4H8O
solvent | water | 1 L | O | H2O
product | (3R,4S,5R,6R)-3,4,5-tri((trimethylsilyl)oxy)-6-(((trimethylsilyl)oxy)methyl)tetrahydro-2H-pyran-2-one | 218 g, yield of 100% | C[Si](O[C@H]1C(O[C@@H]([C@H]([C@@H]1O[Si](C)(C)C)O[Si](C)(C)C)CO[Si](C)(C)C)=O)(C)C | C18H42O6Si4
